US07884207B2
Under a nitrogen atmosphere cyclopropanecarbonyl chloride (0.84 mL, 9.25 mmol) was added dropwise to a chilled mixture of 4-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidin-4-ol (3.00 g, 8.81 mmol), triethylamine (1.47 mL, 10.6 mmol) and dichloromethane (90 mL). The reaction mixture was allowed to warm to ambient temperature. After 2 hours the reaction mixture was washed with water. The organic layer was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel eluting with 90/10 dichloromethane/methanol) to provide 3.16 g of 4-[2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]-1-(cyclopropylcarbonyl)piperidin-4-ol as a light orange frothy solid.

reactant | cyclopropanecarbonyl chloride | 9.25 mmol, 0.84 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 4-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidin-4-ol | 8.81 mmol, 3.00 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCNCC1)O | C19H24N4O2
reactant | triethylamine | 10.6 mmol, 1.47 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 1-(cyclopropylcarbonyl)piperidin-4-ol | C1(CC1)C(=O)N1CCC(CC1)O | C9H15NO2
